US05091432
Adenine (10.00 g., 74.00 mmol) was placed into a clean, dry 500 ml round bottom flask equipped with a magnetic stirring bar, reflux condenser, and a CaCl2 drying tube. Absolute ethanol (360 ml) was added and the solution was stirred. To the suspension was added a small piece of Sodium (approximately 75 mg). When the Sodium had completely reacted, 22.2 g (0.222 mol) ethyl acrylate was added to the suspension and the mixture was brought to reflux. Reflux was continued overnight for approximately 18 hours and the resulting lime colored homogeneous solution was allowed to cool slowly to room temperature. Crystals were allowed to form at 4° C. The solution was filtered by Buchner vacuum filtration and the solid was washed with anhydrous ether. Upon drying, 15.2 g (64.6 mmol) of 3-(1,6-dihydro-6-amino-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0026) was obtained. Yield: 87%.

reactant | Adenine | 74.00 mmol, 10.00 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | ethyl acrylate | 0.222 mol, 22.2 g | C(C=C)(=O)OCC | C5H8O2
product | 3-(1,6-dihydro-6-amino-9H-purin-9-yl)propionic acid, ethyl ester | 64.6 mmol, 15.2 g, Yield: 87% | NC1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H15N5O2
